US05155122
To a solution of 2,6-bis(1,1-dimethylethyl)-4-[5-(methylsulfonyl)-1,3,4-thiadiazole-2-yl]-phenol (4.1 g, 0.0111 mole) in isopropyl alcohol (30 ml) is added hydrazine (5.0 g, 0.10 mole). The resulting mixture is heated at reflux for four hours. The mixture is cooled and concentrated in vacuo. The residue is dissolved in 1:1 ethyl acetate/ether and washed with saturated aqueous NaCl and dried over MgSO4. Filtration and concentration in vacuo provides a solid which is recrystallized from ethanol/water to give 2.6 g of 2,6-bis(1,1-dimethylethyl)-4-(5-hydrazino-1,3,4-thiadiazol-2-yl)phenol after drying in vacuo (3.6 g theor., 73%), mp 109°-122° C.

reactant | 2,6-bis(1,1-dimethylethyl)-4-[5-(methylsulfonyl)-1,3,4-thiadiazole-2-yl]-phenol | 0.0111 mole, 4.1 g | CC(C)(C)C1=C(C(=CC(=C1)C=1SC(=NN1)S(=O)(=O)C)C(C)(C)C)O | C17H24N2O3S2
reactant | hydrazine | 0.10 mole, 5.0 g | NN | H4N2
solvent | isopropyl alcohol | 30 ml | C(C)(C)O | C3H8O
product | 2,6-bis(1,1-dimethylethyl)-4-(5-hydrazino-1,3,4-thiadiazol-2-yl)phenol | 2.6 g | CC(C)(C)C1=C(C(=CC(=C1)C=1SC(=NN1)NN)C(C)(C)C)O | C16H24N4OS
